US07700655B2
(1) 2-Acetoxy-5-chloro-N-(pyridazin-2-yl)benzamide
Using 2-acetoxy-5-chlorobenzoic acid and 2-aminopyridazine as the raw materials, the same operation as the Example 198(3) gave the title compound.

reactant | 2-acetoxy-5-chlorobenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Cl | C9H7ClO4
reactant | 2-aminopyridazine | NN1NC=CC=C1 | C4H7N3
product | 2-Acetoxy-5-chloro-N-(pyridazin-2-yl)benzamide | Yield: 19.7% | C(C)(=O)OC1=C(C(=O)NN2NC=CC=C2)C=C(C=C1)Cl | C13H12ClN3O3
